US07875728B2
A solution of 1-bromomethyl-3-nitrobenzene (the compound of formula (R), 5 mmol, 1.08 g), pyrrolidine (11 mmol, 0.79 g), and 1.0 mL triethylamine (the compound of formula NRR′R″ wherein R═R′═R″=ethyl) in THF (35 mL) was heated at 60° C. for 1 hour. The reaction mixture was allowed to cool to ambient temperature overnight with stirring. Water was then added to the reaction mixture and the product was extracted into diethyl ether. The ether layer was dried over sodium sulfate, filtered, and evaporated to yield 1.03 g (94%) of 1-(3-nitro-benzyl)-pyrrolidine (the compound of formula (S)) which was used in the following reaction without further purification.

reactant | 1-bromomethyl-3-nitrobenzene | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | pyrrolidine | 11 mmol, 0.79 g | N1CCCC1 | C4H9N
reactant | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-(3-nitro-benzyl)-pyrrolidine | 1.03 g, 94% | [N+](=O)([O-])C=1C=C(CN2CCCC2)C=CC1 | C11H14N2O2
